2198-12-27 05:51:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   - Discussed grave prognosis of her cancer. Pt said she was surprized to
   hear she has a bad prognosis
   - Stable with BPs in the 140s/70 and pulse around 120. Resp in the high
   20s.
   - Refusing additional pain meds although appears uncomfortable
   - Pleural fluid with many PMNs and GPC in clusters and pairs
   - BCx grew GPC in clusters and chains
   - Clinically improved somewhat overnight with resps trending down from
   near 30 to the teens, but persistently tachycardic
   - In the AM responsive to pain and non-sensical verbals responses.
   A&Ox0 ABG sent showed: pO2 99 pCO2 109 pH 7.12 Lactate 1.2 sat 95%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-12-26**] 11:30 AM
   Vancomycin - [**2198-12-26**] 10:00 PM
   Cefipime - [**2198-12-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-12-27**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-12-27**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 136 (113 - 136) bpm
   BP: 161/86(103) {133/73(90) - 167/96(113)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,231 mL
                                                                     50 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                  1,721 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                      0 mL
   Urine:
                                                                    170 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                  1,861 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: Middle aged - elderly woman, older than stated aged.
   Tachypneic, anxious.
   HEENT: Alopecia, multiple scabs.
   NECK: Extensive radiation changes, difficult to appreciate neck veins,
   no distention noted.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR.
   Nl S1/S2. Tachycardic.  Unable to take pulsus (s/p axillary LN
   dissection on R and PICC on L)  Evidence of venous distention of L
   superfical thoracic wall veins.
   LUNGS: s/p R mastectomy and LN dissection, swelling R breast, chronic.
   s/p L thoracentesis.  Decreased BS R>L, poor air movement.
   ABDOMEN: Soft, NTND. + BS
   EXTREMITIES:  Slight pitting edema L breast, b/l elbows.  s/p left PICC
   line placement. S/p removal of L port-a-cath. Some surrounding
   erythema, nothing expressible, not warm.
   SKIN: Multiple scabs on shins, hands, scalp, per pt self inflicted.
   Labs / Radiology
         [image002.jpg]
   Assessment and Plan
   55F with metastatic breast cancer c/b malignant pericardial and pleural
   effusions presenting with worsening shortness of breath found to have
   superinfection of the pleural effusions versus PNA with parapneumonic
   effusion / empyema. Overnight on [**1-2**] BCx grew GPCs in pairs and
   chains and pleural fluid Gram stain was notably for GPC in pairs and
   clusters.
   # Shortness of breath.  Ddx includes pericardial effusion, pleural
   effusion with empyema, pneumonia, PE. Most likely culprit is PNA with
   empyema, especially given the pt's report of interval improvement after
   initial thoracentesis. Pt also has some degree of underlying fibrosis
   likely from prior radiation. Has been followed as an outpatient for a
   known restrictive lung defect.
   -Supplemental 02 prn
   -care as below for empyema/PNA
   -appreciate IP involvement, continue to f/u recs
   -At this point consider PE less likely given other more compelling dx,
   but will keep in mind given presence of malignancy if pt persistently
   tachycardic/dyspneic/hypoxic.
   # Epmyema/PNA - Pt with marked leukocytosis with L shift and GPCs in
   pleural fluid c/w empyema and GPC growing in BCx in less that 12
   hours.  Also has CXR c/w PNA.  Unclear if pt has underlying compressive
   fibrosis/metastatic disease predisposing her to obstruction and a
   higher liklihood of anaerobic infection.
   -IP was able to drain a small amount of fluid but deferred a chest tube
   [**12-24**] loculated, non-flowing pleural fluid believed to be from loculation
   of malignant effusion
   - Initial Gram stain of pleural fluid with GPC in pairs and clusters.
   Culture pending
   - Initial BCx grew GPC in pairs and chains. Speciation pending
   - F/u blood, sputum, and pleural fluid cultures
   - Continue Vanc/cefepime for empyema and HAP. Consider narrowing ABx
   - f/u CXR in am
   # Pericardial Effusion - pt has history of malignant pericardial
   effusion s/p pericardial window. In setting of dyspnea/tachycardia and
   hypoxia, repeat [**Month/Day (2) **] showed newly worsened effusion, albeit loculated.
   Unusual for pericardial window to fail this soon, however may be that
   pt's loculated effusion does not communicate with window.  [**Name2 (NI) 317**] slight
   increase in pericardial pressures, however BP stable.  Unlikely that
   this is causing significant tamponade.
   -monitor clinically for now
   -if pt's dyspnea, tachycardia and hypoxia and leukocytosis do not
   improve with above treatment or if decompensates, must consider
   possibility of purulent pericardial effusion and need for urgent
   pericardiocentesis
   -telemetry
   -thoracics to see for ? repeat window
   # Tachycardia - Likely in setting of acute infection.  Plan to tx
   infection and bolus IVF prn for low UOP.  If doesn't resolve with
   appropriate tx of empyema, consider CTA for r/o PE, although unlikely
   that pt has multiple dx.
   #  HTN - Usually on fairly low dose BB at home. Hold for now in setting
   of acute infection
   # Breast Cancer - On Herceptin and adriamycin.  Dr. [**Last Name (STitle) 7873**] is primary
   oncologist.  Last seen [**12-17**].
   - Dr. [**Last Name (STitle) 7873**] aware Pt is here. He confirmed that the pt is full code and
   wants every possible intervention. He also confirmed that the pt and
   her family have unrealistic expectations regarding prognosis
   -potential call out to OMED when confident pericardial effusion is
   stable without need to drain.
   -pain control with home fentanyl patch and prn oxycodone with morphine
   IV for breakthrough.
   -On cycle [**2-24**] XRT for hip mets today, last session was to be tomorrow.
   Called RT, they feel she may miss a day and will touch base with them
   when pt stable for tx east for further tx.
   # Hypothyroidism - continue home dose levoxyl.
   -given tachycardia, repeat TSH this admission.
   # CHF - on [**Name (NI) **] pt had decreased systolic function with EF 35-40%, with
   moderate LV global hypokinesis. Slightly worse than [**8-29**].  ? whether
   related to chemotherapy, was on doxorubicin previously.
   -caution with IVF
   -consider ACEI instead of BB for BP control on d/c.
   -Recommend outpatient [**Month/Year (2) **] to follow.
   FEN: Regular diet with ensure supplements once IP places catheter.
   Bolus 500cc for low UOP, caution with decreased EF.   Replete lytes
   PRN.
   ACCESS: PICC
   PROPHYLAXIS: Hep SC, bowel regimen.
   CODE: FULL, discussed with patient.
   DISPO: CCU for now, when pericardial effusion stable, call out to OMED.
   SE c/s for family/pt coping.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-12-26**] 12:29 PM
   PICC Line - [**2198-12-26**] 12:30 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-12-28 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2198-12-27**]
   - Had family mtg with husband, mother, and cousin. Palliative care and
   Heme-Onc SW also present. Agreed DNR/DNI is consistent with pt's
   wishes.
   - BP stable in 140s/80, pulse 130s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-12-26**] 11:30 AM
   Vancomycin - [**2198-12-27**] 09:00 PM
   Cefipime - [**2198-12-28**] 05:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-12-27**] 04:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-12-28**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 136 (127 - 152) bpm
   BP: 146/78(95) {133/76(90) - 172/101(114)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,050 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  1,050 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    850 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PCV+
   PC : 20 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.12/109/98.[**Numeric Identifier 248**]//2
   PaO2 / FiO2: 196
   Physical Examination
   GENERAL: Middle aged - elderly woman, older than stated aged.
   Tachypneic, anxious.
   HEENT: Alopecia, multiple scabs.
   NECK: Extensive radiation changes, difficult to appreciate neck veins,
   no distention noted.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR.
   Nl S1/S2. Tachycardic.  Unable to take pulsus (s/p axillary LN
   dissection on R and PICC on L)  Evidence of venous distention of L
   superfical thoracic wall veins.
   LUNGS: s/p R mastectomy and LN dissection, swelling R breast, chronic.
   s/p L thoracentesis.  Decreased BS R>L, poor air movement.
   ABDOMEN: Soft, NTND. + BS
   EXTREMITIES:  Slight pitting edema L breast, b/l elbows.  s/p left PICC
   line placement. S/p removal of L port-a-cath. Some surrounding
   erythema, nothing expressible, not warm.
   SKIN: Multiple scabs on shins, hands, scalp, per pt self inflicted.
   Labs / Radiology
   414 K/uL
   11.5 g/dL
   133mg/dL
   0.6 mg/dL
   35 mEq/L
   4.9 mEq/L
   27 mg/dL
   97 mEq/L
   138 mEq/L
   34.1 %
                  11.5
                             [**2198-12-27**]  05:33 AM
                             [**2198-12-27**]  07:26 AM
   WBC
   13.9
   Hct
   36.2
   Plt
   433
   Cr
   0.5
   TCO2
   38
   Glucose
   139
   Other labs: PT / PTT / INR:14.5/32.0/1.3, Differential-Neuts:85.8 %,
   Lymph:7.0 %, Mono:6.8 %, Eos:0.4 %, Lactic Acid:1.2 mmol/L, Albumin:3.7
   g/dL, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN  55F with metastatic breast cancer c/b malignant
   pericardial and pleural effusions presenting with worsening shortness
   of breath.
   # Respiratory failure/empyema - Thoracentesis initially helped
   symptoms, loculated so unable to place catheter.  Respiratory
   dysfunction likely related to underlying malignancy and pleural
   effusion, ? restrictive lung disease.  Cultures growing staph aureus.
   - Continue Vancomycin, will d/c Cefepime given cx data
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]. of culture, minimum course for 2 weeks to complete on
   [**2199-1-9**].  Broaden with anaerobic coverage if clinical deterioration.
   -Supplemental 02 prn
   - morphine prn resp distress
   # Pericardial Effusion - pt has history of malignant pericardial
   effusion s/p pericardial window. Appears stable. In setting of
   dyspnea/tachycardia and hypoxia, repeat [**Year (4 digits) **] showed newly worsened
   effusion, albeit loculated, may be related to pericardial window not
   communicating with loculated space.
   -monitor clinically for now, given goals of care transitioning
   -telemetry
   # Tachycardia
 Multifactorial, with acute infection, malignancy,
   hypoxia and hypovolemia contributing.  Plan to tx infection and bolus
   IVF prn for low UOP.  If doesn't resolve with appropriate tx of
   empyema, consider CTA for r/o PE, although unlikely that pt has
   multiple dx.
   #  HTN - Usually on fairly low dose BB at home. Holding for now in
   setting of acute infection
   # Breast Cancer - On Herceptin and adriamycin.  Dr. [**Last Name (STitle) 7873**] is primary
   oncologist.  Last seen [**12-17**].
   - Dr. [**Last Name (STitle) 7873**] involved, has been updated on patient
s deteriorating
   condition
   -pain control with home fentanyl patch and prn morphine IV
   -No further XRT/chemo planned given severity of illness
   # CHF - on [**Name (NI) **] pt had decreased systolic function with EF 35-40%, with
   moderate LV global hypokinesis. Slightly worse than [**8-29**].  ? whether
   related to chemotherapy, was on doxorubicin previously.
   -monitor I/O
   FEN: Patient
s MS [**First Name (Titles) 7923**] [**Last Name (Titles) **] intake, cont. IVF prn.   Replete lytes
   PRN.
   ACCESS: PICC
   PROPHYLAXIS: Hep SC, bowel regimen.
   CODE: DNR/DNI after family mtg yesterday, will have ongoing discussion
   with family re: goals of care given grave prognosis and rapid decline,
   likely transition to CMO today
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-12-26**] 12:29 PM
   PICC Line - [**2198-12-26**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Appears comfortable under current level of care. Will continue
   antibiotcs and analgesia/sedation as needed. Discussed with husband.
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2198-12-28**] 12:22 ------